US07399759B2
2-[6-(1-Piperidyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.36 g, 2.1 mmol), 2-cyano-6-(1-piperidinyl)pyridine (0.40 g, 2.1 mmol), triethylamine (0.45 ml, 3.1 mmol) and toluene (50 ml) was refluxed for 48 hrs as described in Example 1. The solvent was concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (2:1, v/v). The obtained crystals were recrystallized from hexane-ethyl acetate to give the titled compound (0.08 g, 13%) as crystals.

reactant | methyl thiosalicylate | 2.1 mmol, 0.36 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-(1-piperidinyl)pyridine | 2.1 mmol, 0.40 g | C(#N)C1=NC(=CC=C1)N1CCCCC1 | C11H13N3
reactant | triethylamine | 3.1 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(1-Piperidyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.08 g, 13% | N1(CCCCC1)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H17N3OS
